US05108486
To a stirred mixture of 5.4 g (0.027 mole) of N-ethyl-2,5-difluoro-4-nitroaniline in 100 ml of acetic anhydride was added three drops of concentrated sulfuric acid. This mixture was stirred at room temperature for 30 minutes, and was poured into 200 ml of ice and water. The aqueous mixture was extracted with three portions of ethyl acetate. The extracts were combined and washed in succession with an aqueous, saturated sodium chloride solution and water. The washed organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure to yield 6.1 g of N-ethyl-N-(2,5-difluoro-4-nitrophenyl)acetamide as a solid. The nmr spectrum was consistent with the proposed structure.

reactant | N-ethyl-2,5-difluoro-4-nitroaniline | 0.027 mole, 5.4 g | C(C)NC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C8H8F2N2O2
reactant | water | O | H2O
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | three drops | S(O)(O)(=O)=O | H2O4S
product | N-ethyl-N-(2,5-difluoro-4-nitrophenyl)acetamide | 6.1 g | C(C)N(C(C)=O)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C10H10F2N2O3
